US09303041B2
A solution of 2-((1-methylpiperazin-2-yl)methyl)isoindoline-1,3-dione, prepared as described in step D, (100 mg, 0.38 mmol), 2-methyl-10H-benzo[b]thieno[2,3-e][1,4]diazepin-4-amine, prepared as described in step G, (150 mg, 0.52 mmol) and diisopropylethylamine (0.49 g, 3.8 mmol) in dimethylsulfoxide (0.5 mL) was stirred at 170° C. for 2 hrs. The reaction was diluted with water and extracted with ethyl acetate. The organic phase was concentrated and the residue purified by column to give 15 mg of 2-((1-methyl-4-(2-methyl-10H-benzo[b]thieno[2,3-e][1,4]diazepin-4-yl)piperazin-2-yl)methyl)isoindoline-1,3-dione. 1H NMR (400 MHz, CDCl3) δ 7.76-7.73 (m, 1H), 7.45-7.35 (m, 3H), 7.18-7.17 (m, 1H), 6.98-6.95 (m, 2H), 6.75-6.73 (m, 1H), 6.46 (s, 1H), 4.28-4.25 (m, 1H), 3.96-6.92 (m, 1H), 3.71-3.64 (m, 3H), 3.47-3.41 (m, 1H), 3.29-3.28 (m, 1H), 3.12-3.09 (m, 1H), 2.87-2.86 (m, 1H), 2.67-2.53 (m, 3H), 2.28 (s, 3H).

reactant | 2-((1-methylpiperazin-2-yl)methyl)isoindoline-1,3-dione | CN1C(CNCC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H17N3O2
reactant | 2-methyl-10H-benzo[b]thieno[2,3-e][1,4]diazepin-4-amine | 0.38 mmol, 100 mg | CC1=CC2=C(NC3=C(N=C2N)C=CC=C3)S1 | C12H11N3S
reactant | diisopropylethylamine | 3.8 mmol, 0.49 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-((1-methyl-4-(2-methyl-10H-benzo[b]thieno[2,3-e][1,4]diazepin-4-yl)piperazin-2-yl)methyl)isoindoline-1,3-dione | 15 mg | CN1C(CN(CC1)C=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C)CN2C(C3=CC=CC=C3C2=O)=O | C26H25N5O2S
